US06380400B1
Dimethylthiocarbamic acid O-(2-tert-Butyl-4-formyl-5-methylphenyl) Ester (3a)
To a solution of 5-tert-butyl-4-hydroxy-2-methylbenzaldehyde (33.7 Kg, 162 mol correcting for a GC purity of 92.5%) in water (60 L) and THF (45 L) under a nitrogen atmosphere was added potassium hydroxide (5.0 Kg of a 45% aqueous solution) to adjust the pH of the solution to pH 12. The resulting solution was stirred at 10-19° C. while a solution of dimethylthiocarbamoyl chloride (28.7 Kg) in THF (36 L) was added over a 2.5 hour period with simultaneous addition of 45% KOH (22.2 Kg) in order to hold the pH of the reaction mixture between 11.8 and 12.1. The vessel containing the dimethylthiocarbamoyl-THF solution was rinsed with THF (5 L) and the rinse combined with the whole. Additional 45% KOH (3.8 Kg) was added to the mixture over a 2 hour period at 15-19° C. in order to maintain a basic pH in the range 11.7-11.8. Stirring at 18-19° C. was continued for another 70 minutes. Ethyl acetate (45 Kg) and heptane (34 Kg) were added to the reaction mixture. Phase separation was assisted by the addition of NaCl (22 Kg) in water (60 L). After separation the aqueous layer was extracted with a solution of ethyl acetate (23 Kg) and heptane (17 Kg). The combined organic layers were diluted with ethyl acetate (50 Kg) and extracted with 10% KOH (2×35 L) followed by 10% aqueous sodium chloride solution (2×33 Kg). The organic product solution was concentrated to a volume of approximately 45 L. This was treated with 45% KOH (50 gm) and diluted with methanol (40 L) and the resulting solution cooled to 43° C. Water (7 L) was added over 15 to 30 minutes while maintaining the temperature between 40 and 45° C. The solution was cooled slowly with addition of dimethylthiocarbamic acid O-(2-tert-butyl-4-formyl-5-methylphenyl) ester seed crystals. Crystallization began at 40° C. The mixture was stirred and cooled over several hours to 2° C. The mixture was filtered and the solid washed with a solution of methanol (25 L) and water (6 L) followed by water (20 L) and vacuum dried at 40-45° C. overnight until the water content was 0.03%. This gave dimethylthiocarbamic acid O-(2-tert-butyl-4-formyl-5-methylphenyl) ester (3a): 34.8 Kg (125 mol, 77%): mp: 79.5-81° C.; Assay (HPLC): 100.0 area %; ROI: 0.03%.

reactant | 5-tert-butyl-4-hydroxy-2-methylbenzaldehyde | C(C)(C)(C)C=1C(=CC(=C(C=O)C1)C)O | C12H16O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | dimethylthiocarbamoyl chloride | 28.7 Kg | CN(C(=S)Cl)C | C3H6ClNS
reactant | KOH | 22.2 Kg | [OH-].[K+]
solvent | water | 60 L | O | H2O
solvent | THF | 36 L | C1CCOC1 | C4H8O
solvent | THF | 45 L | C1CCOC1 | C4H8O
product | Dimethylthiocarbamic acid O-(2-tert-Butyl-4-formyl-5-methylphenyl) Ester | C(C)(C)(C)C1=C(C=C(C(=C1)C=O)C)OC(N(C)C)=S | C15H21NO2S
